US04000260
Synthesis of 5'-amino-2',5'-dideoxy-5-bromouridine
To a solution of 5'-amino-2',5'-dideoxyuridine (0.113 g 0.5 mmole) in 100 ml of 0.05 M sodium acetate buffer, pH 6.0, is added 0.8 g (2.5 mmole) mercuric acetate. The solution is heated at 60° C for 5 hours and cooled on ice. Chelex 100 resin, 20 g, is added and the slurry stirred for 15 minutes at 0° C. The resin is removed by filtration and 0.177 g (1.0 mmole) of N-bromosuccinimide is added. The solution is stirred at room temperature for 30 minutes. The extent of bromination is followed spectrophotometrically at 300 nm, and the reaction terminated by the addition of aniline-ethanol when the absorbance increase plateaus. The reaction mixture is applied directly to a 2 × 15 cm column of Dowex 50 (H+) resin, the column washed with 200 ml of water, and eluted with 1 molar ammonium hydroxide. The solvent is removed at 40° C under reduced pressure, and the residue crystallized from ethanol-ether to provide 100 mg (69%) of the desired product.

reactant | 5'-amino-2',5'-dideoxyuridine | 0.5 mmole, 0.113 g | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)O | C9H13N3O4
reactant | N-bromosuccinimide | 1.0 mmole, 0.177 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | sodium acetate | 0.05 M, 100 ml | C(C)(=O)[O-].[Na+]
product | 5'-amino-2',5'-dideoxy-5-bromouridine | 100 mg, 69% | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)Br)O | C9H12BrN3O4
